// UCIe-AP RX AFE golden TB (tb_afe_cmp_mc) -- si export assembled by scripts/gen_tb_golden.py
simulator lang=spectre

include "/home/lib/tsmc_12nm_installed/pdk/models/cln12ffcll_1d8_sp_v1d0_2p4_usage.scs" section=TTGlobalCorner_LocalMC_MOS_MOSCAP
include "/home/lib/tsmc_12nm_installed/pdk/models/cln12ffcll_1d8_sp_v1d0_2p4_usage.scs" section=TTGlobalCorner_LocalMC_RES_BIP_DIO_DISRES
include "/home/lib/tsmc_12nm_installed/pdk/models/cln12ffcll_1d8_sp_v1d0_2p4_usage.scs" section=TTGlobalCorner_LocalMC_MOM
// Library name: afe_sch
// Cell name: afe_bias
// View name: schematic
subckt afe_bias vbias vdd vss
    Mba (vbias vbias vss vss) nch_lvt_mac l=16n nfin=16
    Mbb (vbias vbias vss vss) nch_lvt_mac l=16n nfin=16
Rb (vdd vbias ) rhim l=2.35u w=360.0n multi=(1)
    Cdec1 (vbias vss) cfmom_2t_p80
    Cdec2 (vbias vss) cfmom_2t_p80
    Cdec3 (vbias vss) cfmom_2t_p80
    Cdec4 (vbias vss) cfmom_2t_p80
    Cdec5 (vbias vss) cfmom_2t_p80
    Cdec6 (vbias vss) cfmom_2t_p80
    Cdec7 (vbias vss) cfmom_2t_p80
    Cdec8 (vbias vss) cfmom_2t_p80
    Cdec9 (vbias vss) cfmom_2t_p80
    Cdec10 (vbias vss) cfmom_2t_p80
    Cdec11 (vbias vss) cfmom_2t_p80
    Cdec12 (vbias vss) cfmom_2t_p80
    Cdec13 (vbias vss) cfmom_2t_p80
    Cdec14 (vbias vss) cfmom_2t_p80
    Cdec15 (vbias vss) cfmom_2t_p80
    Cdec16 (vbias vss) cfmom_2t_p80
ends afe_bias
// End of subcircuit definition.
// Library name: afe_sch
// Cell name: afecmp_bank
// View name: schematic
subckt afecmp_bank az eval gp outn outp vbias vdd vin vref vss
    C1 (pA gp) capacitor c=80f
    C2 (vref gn) capacitor c=80f
    Msw (pA eval vin vss) nch_ulvt_mac l=16n nfin=8
    MazA (pA az vref vss) nch_ulvt_mac l=16n nfin=8
    MazGp (gp az vbias vss) nch_ulvt_mac l=16n nfin=8
    MazGn (gn az vbias vss) nch_ulvt_mac l=16n nfin=8
    MNp (s1n gp tA vss) nch_lvt_mac l=16n nfin=8
    MNn (s1p gn tA vss) nch_lvt_mac l=16n nfin=8
    MLp (s1p s1p vdd vdd) pch_svt_mac l=16n nfin=2
    MLn (s1n s1n vdd vdd) pch_svt_mac l=16n nfin=2
    Mtail (tA eval vss vss) nch_svt_mac l=16n nfin=8
    MN2p (outn s1p t2 vss) nch_ulvt_mac l=16n nfin=6
    MN2n (outp s1n t2 vss) nch_ulvt_mac l=16n nfin=6
    ML2p (outp outp vdd vdd) pch_svt_mac l=16n nfin=2
    ML2n (outn outn vdd vdd) pch_svt_mac l=16n nfin=2
    Mtail2 (t2 eval vss vss) nch_svt_mac l=16n nfin=6
    Msh (outp az outn vss) nch_svt_mac l=16n nfin=2
    RbpA (pA vss) resistor r=1T
    Rbgp (gp vss) resistor r=1T
    Rbgn (gn vss) resistor r=1T
ends afecmp_bank
Vvdd (vdd 0) vsource dc=0.8
Vvss (vss 0) vsource dc=0
Vvref (vref 0) vsource dc=0.225
Vvin (vin 0) vsource type=pwl wave=[0 0.10 0.5n 0.10 60n 0.35]
Veval (eval 0) vsource type=pulse val0=0 val1=0.8 delay=__EVALD__ rise=10p fall=10p width=100n period=200n
// End of subcircuit definition.
// Library name: afe_sch
// Cell name: tb_afe_cmp_mc
// View name: schematic
Vaz (az 0) vsource type=pulse val0=0 val1=__AZEN__ delay=0 rise=10p fall=10p width=1.5n period=200n
Xbias (vbias vdd vss) afe_bias
Xcmp (az eval gp outn outp vbias vdd vin vref vss) afecmp_bank

// ---- directives (verbatim from tb_afe_cmp_mc.scs) ----
nodeset gp=0.4 Xcmp.gn=0.4 Xcmp.pA=__PANODESET__
ic vbias=0.362

mc1 montecarlo numruns=__NRUNS__ variations=mismatch seed=__SEED__ donominal=no {
    tran tran stop=60n maxstep=5p method=gear2only skipdc=yes
}

saveOptions options save=selected
save vin outp outn
