// UCIe-AP RX AFE golden TB (tb_afe_txron_mc) -- si export assembled by scripts/gen_tb_golden.py
simulator lang=spectre

include "/home/lib/tsmc_12nm_installed/pdk/models/cln12ffcll_1d8_sp_v1d0_2p4_usage.scs" section=TTGlobalCorner_LocalMC_MOS_MOSCAP
include "/home/lib/tsmc_12nm_installed/pdk/models/cln12ffcll_1d8_sp_v1d0_2p4_usage.scs" section=TTGlobalCorner_LocalMC_RES_BIP_DIO_DISRES
include "/home/lib/tsmc_12nm_installed/pdk/models/cln12ffcll_1d8_sp_v1d0_2p4_usage.scs" section=TTGlobalCorner_LocalMC_MOM
// Library name: afe_sch
// Cell name: afe_tx_drv
// View name: schematic
subckt afe_tx_drv din pad vccio vdd vss
    Mp1 (n1 din vdd vdd) pch_svt_mac l=16n nfin=4
    Mn1 (n1 din vss vss) nch_svt_mac l=16n nfin=2
    Mp2a (n2 n1 vdd vdd) pch_svt_mac l=16n nfin=16
    Mp2b (n2 n1 vdd vdd) pch_svt_mac l=16n nfin=16
    Mp2c (n2 n1 vdd vdd) pch_svt_mac l=16n nfin=16
    Mn2a (n2 n1 vss vss) nch_svt_mac l=16n nfin=16
    Mn2b (n2 n1 vss vss) nch_svt_mac l=16n nfin=16
    Mp3a (n3 n2 vdd vdd) pch_svt_mac l=16n nfin=16
    Mp3b (n3 n2 vdd vdd) pch_svt_mac l=16n nfin=16
    Mp3c (n3 n2 vdd vdd) pch_svt_mac l=16n nfin=16
    Mp3d (n3 n2 vdd vdd) pch_svt_mac l=16n nfin=16
    Mn3a (n3 n2 vss vss) nch_svt_mac l=16n nfin=16
    Mn3b (n3 n2 vss vss) nch_svt_mac l=16n nfin=16
    Mn3c (n3 n2 vss vss) nch_svt_mac l=16n nfin=16
    Mpu01 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu02 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu03 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu04 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu05 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu06 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu07 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu08 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu09 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu10 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu11 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu12 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu13 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu14 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu15 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpu16 (pad n3 vccio vccio) pch_ulvt_mac l=16n nfin=16
    Mpd1 (pad n3 vss vss) nch_ulvt_mac l=16n nfin=16
    Mpd2 (pad n3 vss vss) nch_ulvt_mac l=16n nfin=16
    Mpd3 (pad n3 vss vss) nch_ulvt_mac l=16n nfin=16
    Mpd4 (pad n3 vss vss) nch_ulvt_mac l=16n nfin=16
    Mpd5 (pad n3 vss vss) nch_ulvt_mac l=16n nfin=16
    Mpd6 (pad n3 vss vss) nch_ulvt_mac l=16n nfin=16
ends afe_tx_drv
Vvdd (vdd 0) vsource dc=0.8
Vvccio (vccio 0) vsource dc=0.45
Vvss (vss 0) vsource dc=0
Vdin0 (din0 0) vsource dc=0
// End of subcircuit definition.
// Library name: afe_sch
// Cell name: tb_afe_txron_mc
// View name: schematic
Vdin1 (din1 0) vsource dc=0.8
Ipu (pad_pu 0) isource dc=2m
Ipd (0 pad_pd) isource dc=2m
Xdrv_pu (din0 pad_pu vccio vdd vss) afe_tx_drv
Xdrv_pd (din1 pad_pd vccio vdd vss) afe_tx_drv

// ---- directives (verbatim from tb_afe_txron_mc.scs) ----
mc1 montecarlo numruns=__NRUNS__ variations=mismatch seed=__SEED__ donominal=no {
    dc1 dc
}

saveOptions options save=selected
save pad_pu pad_pd
