// UCIe-AP RX AFE golden TB (tb_bias_dc) -- si export assembled by scripts/gen_tb_golden.py
simulator lang=spectre

__MODELS__
// Library name: afe_sch
// Cell name: afe_bias
// View name: schematic
subckt afe_bias vbias vdd vss
    Mbb (vbias vbias vss vss) nch_lvt_mac l=16n nfin=16
    Mba (vbias vbias vss vss) nch_lvt_mac l=16n nfin=16
Rb (vdd vbias ) rhim l=2.35u w=360.0n multi=(1)
    Cdec16 (vbias vss) cfmom_2t_p80
    Cdec15 (vbias vss) cfmom_2t_p80
    Cdec14 (vbias vss) cfmom_2t_p80
    Cdec13 (vbias vss) cfmom_2t_p80
    Cdec12 (vbias vss) cfmom_2t_p80
    Cdec11 (vbias vss) cfmom_2t_p80
    Cdec10 (vbias vss) cfmom_2t_p80
    Cdec9 (vbias vss) cfmom_2t_p80
    Cdec8 (vbias vss) cfmom_2t_p80
    Cdec7 (vbias vss) cfmom_2t_p80
    Cdec6 (vbias vss) cfmom_2t_p80
    Cdec5 (vbias vss) cfmom_2t_p80
    Cdec4 (vbias vss) cfmom_2t_p80
    Cdec3 (vbias vss) cfmom_2t_p80
    Cdec2 (vbias vss) cfmom_2t_p80
    Cdec1 (vbias vss) cfmom_2t_p80
ends afe_bias
// End of subcircuit definition.
// Library name: afe_sch
// Cell name: tb_bias_dc
// View name: schematic
Vvdd (vdd 0) vsource dc=0.8
Xb (vbias vdd 0) afe_bias

// ---- directives (verbatim from tb_bias_dc.scs) ----
simOpts options temp=__TEMP__
dc1 dc

saveOptions options save=selected
save vbias
