// UCIe-AP RX AFE golden TB (tb_noise_smoke) -- si export assembled by scripts/gen_tb_golden.py
simulator lang=spectre

include "/home/lib/tsmc_12nm_installed/pdk/models/toplevel.scs" section=top_tt
// Library name: afe_sch
// Cell name: tb_noise_smoke
// View name: schematic
Vvdd (vdd 0) vsource dc=0.8
M1 (out out vss vss) nch_lvt_mac l=16n nfin=8
R1 (vdd out ) rhim l=10u w=360.0n multi=(1)
C1 (out vss) capacitor c=50f

// ---- directives (verbatim from tb_noise_smoke.scs) ----
tran tran stop=40n maxstep=5p method=gear2only skipdc=yes __NOISE_OPTS__

saveOptions options save=selected
save out
